US07612114B2
{2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
Synthesized from 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (425 mg) and [4-(2-azepan-1-ylethoxy)phenyl]acetic acid hydrochloride (700 mg) was used according to an analogous synthetic method to Example 337 to provide the title compound (140 mg).

reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 425 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
reactant | [4-(2-azepan-1-ylethoxy)phenyl]acetic acid hydrochloride | 700 mg | Cl.N1(CCCCCC1)CCOC1=CC=C(C=C1)CC(=O)O
product | {2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 140 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)CCNC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C34H44N2O3
